US08703761B2
C. 2-Amino-N-[5-(4-fluoro-benzoyl)-4-trifluoromethyl-thiazol-2-yl]-2-methyl-propionamide
A mixture of {1-[5-(4-Fluoro-benzoyl)-4-trifluoromethyl-thiazol-2-ylcarbamoyl]-1-methyl-ethyl}-carbamic acid benzyl ester (1.42 g, 2.79 mmol) and 33% HBr (in acetic acid, 5 mL, 92 mmol) in acetic acid (10 mL) was stirred at RT for 1 h, diluted with aqueous KOH carefully to make pH=8-9, and the product was extracted with ethyl acetate, dried over MgSO4 and concentrated. Chromatography gave the title compound. m/z 376.1 (MH+).

reactant | {1-[5-(4-Fluoro-benzoyl)-4-trifluoromethyl-thiazol-2-ylcarbamoyl]-1-methyl-ethyl}-carbamic acid benzyl ester | 2.79 mmol, 1.42 g | C(C1=CC=CC=C1)OC(NC(C)(C)C(NC=1SC(=C(N1)C(F)(F)F)C(C1=CC=C(C=C1)F)=O)=O)=O | C23H19F4N3O4S
reactant | HBr | 92 mmol, 5 mL | Br | BrH
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | KOH | [OH-].[K+]
product | 2-Amino-N-[5-(4-fluoro-benzoyl)-4-trifluoromethyl-thiazol-2-yl]-2-methyl-propionamide | NC(C(=O)NC=1SC(=C(N1)C(F)(F)F)C(C1=CC=C(C=C1)F)=O)(C)C | C15H13F4N3O2S
